US06753334B2
To a 250 ml flask under a nitrogen atmosphere, concentrated HCl (50 ml, 32%, 0.51 moles) was charged and cooled down to −2 to 0° C. 2-Bromoaniline (10 g, 0.058 moles) was added in one portion as a solid. The acidic suspension was re-cooled to −2 to 0° C. and sodium nitrite (4.8 g, 0.070 moles) dissolved in water (10 ml) was added dropwise to the acidic mixture through an addition funnel over a period of 40 minutes at −2 to 0° C. The resulting mixture (yellow suspension) was stirred for 1 hour at −2 to 0° C. L-Ascorbic acid (10.3 g, 0.058 moles) was then added in portions as a solid at −2 to 0° C. over a period of 45 minutes. The reaction mixture (orange suspension) was allowed to come to room temperature (18-20° C.), then heated to 40° C. and stirred for 3 hours at this temperature. A red suspension was formed. The reaction mixture was cooled and stirred for 2 hours at 0-5° C. The slurry was filtered, washed with water and dried to constant weight to afford 14.3 g of crude 2-bromophenylhydrazido oxalic acid as an orange crystalline solid.

reactant | HCl | 0.51 moles, 50 ml | Cl | ClH
reactant | 2-Bromoaniline | 0.058 moles, 10 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | sodium nitrite | 0.070 moles, 4.8 g | N(=O)[O-].[Na+]
reactant | L-Ascorbic acid | 0.058 moles, 10.3 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
solvent | water | 10 ml | O | H2O
product | 2-bromophenylhydrazido oxalic acid | 14.3 g | BrC1=C(C=CC=C1)N(N)C(C(=O)O)=O | C8H7BrN2O3
